US08633200B2
Methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate
To a mixture of methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (5 g, 13.65 mmol) in CH2Cl2 (20 mL) was added Dess-MartinPeriodinane (6.37 g, 15.02 mmol) and the reaction mixture was stirred at room temp for 1 h. The reaction mixture was diluted with ethyl acetate (100 mL). The organic layer was washed with saturated NaHCO3 solution (100 mL) and dried (Na2SO4). The solvent was evaporated and the residue was purified by a quick silica gel chromatography to afford (3.8 g, 76%) of the title compound. 1H NMR (500 MHz, CHLOROFORM-d) δ 8.10-7.98 (m, 1H), 7.89 (td, J=4.4, 1.5 Hz, 1H), 7.51-7.36 (m, 2H), 7.00 (s, 1H), 4.00 (s, 3H), 2.62 (s, 3H).

reactant | methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 13.65 mmol, 5 g | ClC1=C(C(=NC=2N1N=C(C2)C2=CC(=CC=C2)Cl)C)C(C(=O)OC)O | C16H13Cl2N3O3
reactant | Dess-MartinPeriodinane | 15.02 mmol, 6.37 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 3.8 g, 76% | ClC1=C(C(=NC=2N1N=C(C2)C2=CC(=CC=C2)Cl)C)C(C(=O)OC)=O | C16H11Cl2N3O3
